Name:  ___                        Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I went to student health and they sent me here"
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ y/o ___ F ___ student with no formal 
psychiatric or
medical history sent on a ___ from ___ Counseling Center
after she presented today reporting a strong wish to die and
thoughts of wanting to stab herself with a knife. 

At this time, she admits to depression that has started at
least ___ years ago, but has recently been getting worse over the
past 4 weeks. She states that she no longer is able to "feel
anything, neither sadness nor joy". This concerns her, because
before she was able to cry, but now she is unable to experience
any emotion. She admits that she also has had decreased sleep at
___ hours per night, low energy levels that are so bad she does
not get out of bed with the exception of making it to class,
lowered interest in activities she previously used to enjoy like
cooking, lowered concentration levels, and decreased appetite.
She admits to hopelessness and low motivation. She reports she
has suicidal thoughts "all the time" and that they "never go
away". However, in the hospital, the pt states she feels safe 
and
does not currently have any intention on hurting herself in the
hospital setting. She does admit to cutting herself, last cut
herself in the arms 4 days ago after having another fight with
her mother. She denies access to firearms at home, denies legal
issues.  

The patient reports that she is currently a student at ___ 
studying
___, which is what her mother wishes her to do. She has 
been
arguing with her mother, with the most recent argument taking 
place about 4 days prior to admission. She says that her
mother tells her to be stronger. Pt states that she lost control
of herself and burned her bed sheets and almost cut herself with
a knife. She says that she spoke with a good friend from grade
school the day of admission, and that this friend advised her to 
go to the ___. 

 
Past Medical History:
Denies
 
Social History:
___
Family History:
Mother: anxiety
 
Physical ___:
Admission Exam:

Temp: 98.2 (Tm 98.2), BP: 115/83, HR: 70, O2 sat: 96%

EXAM:
General:
 -HEENT: Normocephalic, atraumatic. Moist mucous membranes,
 oropharynx clear. No scleral icterus
 -Cardiovascular: Regular rate and rhythm, normal S1,S2, no
 murmurs/rubs/gallops. 
 -Pulmonary: No increased work of breathing.  Lungs clear to
 auscultation bilaterally.  No wheezes/rhonchi/rales.
 -Abdominal: Non-distended, bowel sounds normoactive. No
 tenderness to palpation in all quadrants. No guarding, no
 rebound tenderness.
 -Extremities: Warm and well-perfused.  No edema of the limbs.
 -Skin: No rashes or lesions noted.

Neurological:
 -Cranial Nerves:
 ---I: Olfaction not tested.
 ---II: pupils equal round, both directly and consentually; 
brisk
 bilaterally.  
 ---III, IV, VI: EOMI without nystagmus
 ---V: Masseter symmetric bilaterally 
 ---VII: nasolabial folds symmetric bilaterally
 ---VIII: deferred
 ---IX, X: Palate elevates symmetrically
 ---XI: ___ strength in trapezii and SCM bilaterally
 ---XII: Tongue protrudes midline
 -Motor: Normal bulk and tone bilaterally. Strength ___ in
deltoids, biceps, triceps, quadriceps, hamstrings,
 -Sensory: deferred
 -DTRs: deferred
 ___: deferred
 -Gait: Good initiation. Narrow-based, normal stride and arm
 swing.  

Absence of resting tremor, absence of action tremor
Absence of rigidity or spasticity

Cognition: 
 -Wakefulness/alertness: Awake and alert
 -Attention: WORLD backwards w/ 0 errors
 -Orientation: "not sure" ___, ___
 -Executive function (go-no go, Luria, trails, FAS): test of
ideomotor apraxia intact; brush teeth, comb hair
 -Memory: school, orange, ___
 -Fund of knowledge: deferred
 -Calculations: deferred
 -Abstraction: deferred
 -Visuospatial: Left thumb to R. ear
 -Language: fluent in ___, no paraphasic errors,
 appropriate to conversation

Mental Status:
 -Appearance/behavior:
     woman appearing stated age, sitting on edge of chair in
hospital gown, dark black hair, visible/thickened coating of
makeup on face, good eye contact, hands in lap, absence of
psychomotor agitation
 -Attitude: Cooperative, friendly, mildly guarded
 -Mood: "poor"
 -Affect: Mood-congruent, restricted, appropriate to situation
 -Speech: Normal rate, volume, and tone, minimal output
 -Thought process: Linear, coherent, goal-oriented, no loose
 associations
 -Thought Content:
 ---Safety: SI+
 ---Delusions: No evidence of paranoia, etc. 
 ---Obsessions/Compulsions: No evidence based on current
encounter
 ---Hallucinations: Denies AVH, not appearing to be attending to
 internal stimuli
 -Insight: limited
 -Judgment: poor

ON DISCHARGE:
Mental Status Exam:
Appearance: well groomed 
facial expression: relaxed, smiling on approach
build: WNL
Behavior: engaging, cooperative
eye contact: direct
psychomotor: no abnormal involuntary movements, gait - normal,
Speech: normal rate, volume and tone
Mood/affect "OK", stable, no irritability, brighter, relaxed
Thought Process/content: linear, goal directed, denies
SI/HI, denies AH/VH/delusions
Intellectual Functioning: decreased concentration
Judgment: Fair
Insight: Fair

 
Pertinent Results:
___: Na: 140 (New reference range as of ___: K: 5.1 (Hemolysis falsely elevates this test; New
reference range as of ___: Cl: 100
___: CO2: 26
___: BUN: 16
___: Creat: 0.8
___: Glucose: 80 (If fasting, 70-100 normal, >125
provisional diabetes)

___ 12:34PM BLOOD TSH: 3.5 

___ 12:34PM BLOOD ASA: NEG Ethanol: NEG Acetmnp: NEG
Tricycl: NEG 
 
Brief Hospital Course:
1. LEGAL & SAFETY:  
On admission, the patient initially admitted on a ___ (on 
___, and subsequently signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout her admission. She was also placed on q15 minute 
checks status on admission and remained on that level of 
observation throughout while being unit restricted.

2. PSYCHIATRIC:
On initial presentation, patient reported ongoing mood symptoms 
including feeling sad, anxious, overwhelmed, unable to cope, 
having difficulty with sleep (both falling and staying asleep), 
poor motivation, decreased concentration, subjective memory 
impairment, thoughts that family would be better off without 
her, daily feelings of guilt and worthlessness, poor appetite 
and suicidal ideation which had increased in severity over two 
weeks prior to admission, culminating in thoughts of killing 
self with a knife. Patient reported that she held the knife to 
her stomach but stopped herself because she was afraid of the 
pain. Patient reported increasing depressive symptoms as her 
relationship with her mother regarding school work and 
performance was extremely stressful and in setting of 
insecurities due to acne on face.

During stay, patient met criteria for severe major depressive 
disorder without psychotic features and anxiety not otherwise 
specified. She was started on Sertraline 25 mg PO/NG daily and 
Lorazepam 0.5 mg PO/NG q8h for anxiety/insomnia. However, 
patient developed dizziness and blurred vision on Sertraline, so 
she was switched to Fluoxetine 10 mg on ___. On ___, increased 
Fluoxetine to 20 mg and added Lamotrigine 25 mg QHS for mood 
stabilization. Patient tolerated medications well and was 
compliant with medications during stay.

Team psychiatrist had a family meeting with patient's mother 
over the phone to ___ using interpreter which was beneficial. 
Explained to the mother the gravity of patient's mental illness 
and patient's difficulty dealing with the pressure placed on 
her. Given the support from the team and structure in the unit, 
patient's thoughts of suicidal ideation and self-harm decreased 
during stay and was absent at time of discharge. Patient also 
had improved thought content around behavioral interventions and 
supports should future thoughts of self-harm arise. Throughout 
stay, patient's appetite, sleep, concentration, and energy 
improved significantly. At discharge, recommend that outpatient 
providers consider engaging patient on further development of 
coping mechanism and action plans for active thoughts of 
self-harm. Group or family therapy with the patient's mother may 
also be beneficial, given the lack of communication between the 
patient and her mother regarding the patient's mental health, in 
addition to the patient's relationship with her mother 
potentially contributing to patient's depressed mood.

3. SUBSTANCE USE DISORDERS:
No substance abuse concerns. 

4. MEDICAL
#Chest Pain
Patient experienced some chest pain and chest tightness during 
the morning of ___. Resolved with 0.5 mg Lorazepam. EKG was 
negative. Chest pain/tightness likely secondary to acute 
anxiety; reassured against cardiac process with normal EKG. 
Patient had no further episodes of chest pain during the rest of 
her admission.

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. The 
patient often attended these groups that focused on teaching 
patients various coping skills. She reported these groups did 
not help that much, though she continued to attend. The patient 
was interactive within the milieu, talking to nursing staff and 
engaging with some of the other patients present on the unit. At 
one point, the patient was found playing Sudoku puzzles with 
another patient.

#) COLLATERAL INFORMATION AND  FAMILY INVOLVEMENT
During stay, mother who lives in ___ was contacted with help 
of a ___ language interpreter. Mother was explained the 
seriousness of patient's condition and that the patient wants to 
come back to ___ upon discharge. She was explained the 
importance that patient have psychiatric follow-up on return to 
___, so mother made follow-up appointments and expressed 
understanding.

#) INTERVENTIONS

- Medications: Prozac 20 mg daily, Lamotrigine 25 mg QHS
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: Outpatient appointment with ___ 
___ in ___ on ___ at 11 am 
with ___ ___ (Fax: ___, Phone ___. 
Worked with mother to schedule outpatient psychiatrist appt in 
___ on ___. 
- Behavioral Interventions:  Encouraged exploration of coping 
skills during potential high-stress events with medical team, 
other coping mechanisms explored during group therapy 
- Guardianships: none

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting Sertraline, Fluoxetine, and Lamotrigine, including 
discussing black box warnings and dangerous side effects, and 
risks and benefits of possible alternatives, including not 
taking the medication, with this patient. We discussed the 
patient's right to decide whether to take this medication as 
well as the importance of the patient actively participating in 
the treatment and discussing any questions about medications 
with the treatment team. The patient appeared able to understand 
and consented to begin the medication.

RISK ASSESSMENT & PROGNOSIS

On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself based upon suicidal ideation 
with plan, hopelessness, limited social supports, limited coping 
skills, no established outpatient treatment, lack of purpose, 
and family pressures.  Her static factors noted at that time 
included history of self harm. The patient's modifiable risk 
factors were addressed during her admission with psychiatric 
medication, exploration of coping mechanisms, and group therapy. 
The patient is being discharged with many protective risk 
factors, including help-seeking nature, future-oriented 
viewpoint, sense of responsibility to family, reality testing 
ability, no history of substance use disorder, and no history of 
abuse. Overall, the patient is not at an acutely elevated risk 
of self-harm nor danger to others due to acutely decompensated 
psychiatric illness. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  FLUoxetine 20 mg PO DAILY 
Please take 1 tablet daily. 
RX *fluoxetine 20 mg 1 capsule(s) by mouth daily Disp #*30 
Capsule Refills:*0 
2.  LamoTRIgine 25 mg PO QHS 
Please take 1 tablet every evening. 
RX *lamotrigine 25 mg 1 tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major Depressive Disorder, recurrent severe, no psychotic 
features
Anxiety nos
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___